US03957790
Preparation of 1-(3,3-diphenylpropyl)-4(3,4-dimethoxybenzyl)piperazine dihydrochloride:
N-3,3-Diphenylpropylpiperazine in the amount of 2.8 g (0.01 mole) and 1.87 g (0.01 mole) of 3,4-dimethoxybenzyl chloride were dissolved in 20 ml of methyl ethyl ketone, and the resulting solution was heated at the refluxing temperature for 7.5 hours. After the reaction liquid was left to cool, dry hydrogen chloride gas was passed through the liquid while cooling the liquid to precipitate 1-(3,3-diphenylpropyl)-4-(3,4-dimethoxybenzyl)piperazine dihydrochloride. The crystals of this salt were recrystallized from an ethanol and ether mixed solvent to obtain 4.4 g (87.4% yield) of pure crystals with a melting point of 184°C.

reactant | N-3,3-Diphenylpropylpiperazine | C1(=CC=CC=C1)C(CCN1CCNCC1)C1=CC=CC=C1 | C19H24N2
reactant | 3,4-dimethoxybenzyl chloride | 0.01 mole, 1.87 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
reactant | hydrogen chloride | Cl | ClH
solvent | methyl ethyl ketone | 20 ml | C(C)C(=O)C | C4H8O
product | 1-(3,3-diphenylpropyl)-4(3,4-dimethoxybenzyl)piperazine dihydrochloride | 4.4 g, 87.4% yield | Cl.Cl.C1(=CC=CC=C1)C(CCN1CCN(CC1)CC1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | InChI=1S/C28H34N2O2.2ClH/c1-31-27-14-13-23(21-28(27)32-2)22-30-19-17-29(18-20-30)16-15-26(24-9-5-3-6-10-24)25-11-7-4-8-12-25;;/h3-14,21,26H,15-20,22H2,1-2H3;2*1H
